US08802663B2
3-(4-(5-(1-cyclohexyl-5-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzylamino)propanoic acid
Sodium cyanoborohydride (28 mg; 0.440 mmol) was added to a solution of 4-(5-(1-cyclohexyl-5-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde (163 mg; 0.40 mmol), obtained as described in Example 88, steps 1 and 2, and R-alanine (71.3 mg; 0.80 mmol) in methanol (3 mL) and acetic acid (69 μL; 1.20 mmol) and the mixture was stirred at room temperature overnight. The solvent was removed in vacuo and the residue purified by reverse-phase preparative HPLC. The residue was dissolved in methanol and loaded onto an SCX-2 column. The product was eluted with 0-20% NH3/methanol in DCM. The residue was then recrystallised from acetone to give Example 102 a white solid. 1H NMR: (Acetone-d6, 400 MHz) δ 7.99 (2 H, d, J=8.0 Hz), 7.94 (1 H, s), 7.46 (2 H, d, J=8.0 Hz), 4.46-4.37 (1 H, m), 3.92 (2 H, dd, J=11.5, 4.3 Hz), 3.84 (2 H, s), 3.75 (1 H, t, J=12.3 Hz), 3.43 (2 H, t, J=11.7 Hz), 2.82 (2 H, t, 6.0 Hz), 2.51-2.32 (4 H, m), 1.85-1.70 (6 H, m), 1.61 (1 H, d, J=12.9 Hz), 1.53 (2 H, d, J=12.9 Hz), 1.47-1.32 (2 H, m), 1.23-1.10 (1 H, m). LC/MS: 480 (M+H)+. HPLC (Method D) Rt 15.428 min (Purity: 99.4%).

reactant | Sodium cyanoborohydride | 0.440 mmol, 28 mg | C(#N)[BH3-].[Na+]
reactant | 4-(5-(1-cyclohexyl-5-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | 0.40 mmol, 163 mg | C1(CCCCC1)N1N=CC(=C1C1CCOCC1)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C23H26N4O3
reactant | acetic acid | 1.20 mmol, 69 μL | C(C)(=O)O | C2H4O2
solvent | methanol | 3 mL | CO | CH4O
product | 3-(4-(5-(1-cyclohexyl-5-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzylamino)propanoic acid | C1(CCCCC1)N1N=CC(=C1C1CCOCC1)C1=NC(=NO1)C1=CC=C(CNCCC(=O)O)C=C1 | C26H33N5O4
